US04954518
3.47 g of 2-hydroxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was suspended in 50 ml of acetic acid. Thereto was added 1.67 ml of concentrated nitric acid (specific gravity: 1.38). The mixture was stirred for 20 minutes at 100°-110° C. The reaction mixture was introduced into 300 ml of ice water. The resulting crystal was collected by filtration, washed with water, and recrystallized from acetonitrile to obtain 800 mg (yield: 20.4%) of 2-hydroxy-7-methylsulfonylamino-3-nitro-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 228°-230° C. (decomposed).

reactant | 2-hydroxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.47 g | OC=1OC2=C(C(C1)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H13NO6S
reactant | nitric acid | 1.67 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy-7-methylsulfonylamino-3-nitro-6-phenoxy-4H-1-benzopyran-4-one | 800 mg, yield: 20.4% | OC=1OC2=C(C(C1[N+](=O)[O-])=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H12N2O8S
